US07683185B2
6-(4-Dimethylamino-phenylsulfanyl)-hexa-2,4-dienoic acid hydroxyamide (7c).
To a solution of 6-(4-dimethylamino-phenylsulfanyl)-hexa-2,4-dienoic acid methyl ester (0.556 g, 2.0 mmol) in distilled THF (10 mL) containing aqueous hydroxylamine (50%, 1.21 mL, 18.4 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (1M, 2.8 mL, 2.8 mmol) over a period of 30 minutes. After stirring the mixture at 0° C. for an additional hour, distilled water (10 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The solution was then extracted with ethyl acetate (2×50 mL), and the combined extracts were dried over anhydrous MgSO4, and evaporated to dryness. The solid residue was recrystallised from ethyl acetate to give the title compound (0.24 g, 43%) as a white solid.

reactant | 6-(4-dimethylamino-phenylsulfanyl)-hexa-2,4-dienoic acid methyl ester | 2.0 mmol, 0.556 g | COC(C=CC=CCSC1=CC=C(C=C1)N(C)C)=O | C15H19NO2S
reactant | hydroxylamine | 18.4 mmol, 1.21 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 2.8 mmol, 1M, 2.8 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(4-Dimethylamino-phenylsulfanyl)-hexa-2,4-dienoic acid hydroxyamide | 0.24 g, 43% | ONC(C=CC=CCSC1=CC=C(C=C1)N(C)C)=O | C14H18N2O2S
